US06413938B1
5,6-Dichloro-N-(1-methylethyl)-1H-benzimidazol-2-amine
5,6-Dichloro-1,2-phenylenediamine (0.61 g, 3.4 mmol), isopropyl isothiocyanate (0.39 g, 3.8 mmol), dicyclohexyl carbodiimide (1.06 g, 5.14 mmol) and pyridine (10 L) were used according to general procedure I. The product was recrystallized from acetonitrile to afford a tan solid (0.46 g, 60%); m.p. 218-220° C.

reactant | 5,6-Dichloro-1,2-phenylenediamine | 3.4 mmol, 0.61 g | ClC=1C=CC(=C(C1Cl)N)N | C6H6Cl2N2
reactant | isopropyl isothiocyanate | 3.8 mmol, 0.39 g | C(C)(C)N=C=S | C4H7NS
reactant | dicyclohexyl carbodiimide | 5.14 mmol, 1.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 10 L | N1=CC=CC=C1 | C5H5N
product | 5,6-Dichloro-N-(1-methylethyl)-1H-benzimidazol-2-amine | 0.46 g, 60% | ClC1=CC2=C(NC(=N2)NC(C)C)C=C1Cl | C10H11Cl2N3
